US07049438B2
4-(2-chloro-5-methoxyanilino)-7-[(2R)-2-hydroxy-3-morpholinopropoxy]-5-tetrahydropyran-4-yloxyquinazoline
A mixture of 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2,3-epoxypropoxy]-5-tetrahydropyran-4-yloxyquinazoline (0.08 g), morpholine (0.044 ml), ethanol (1 ml) and chloroform (1 ml) was stirred and heated to 45° C. for 16 hours. The mixture was cooled to ambient temperature and evaporated. The residue was triturated under pentane. The resultant solid was isolated, washed with diethyl ether and dried under vacuum to give the title compound (0.08 g); NMR Spectrum: (DMSOd6 and CF3CO2D) 1.9–2.05 (m, 2H), 2.15 (d, 2H), 3.1–3.45 (m, 5H), 3.45–3.6 (m, 3H), 3.7–3.9 (m, 2H), 3.8 (s, 3H), 3.9–4.1 (m, 2H), 4.22 (m, 1H), 4.45 (m, 1H), 5.15 (m, 1H), 6.95 (s, 1H), 7.02 (m, 1H), 7.15 (s, 1H), 7.5–7.6 (m, 2H), 8.9 (s, 1H); Mass Spectrum: M+H+ 545 and 547.

reactant | 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2,3-epoxypropoxy]-5-tetrahydropyran-4-yloxyquinazoline | 0.08 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OC[C@H]2CO2)C=C(C=C1)OC | C23H24ClN3O5
reactant | morpholine | 0.044 ml | N1CCOCC1 | C4H9NO
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(2-chloro-5-methoxyanilino)-7-[(2R)-2-hydroxy-3-morpholinopropoxy]-5-tetrahydropyran-4-yloxyquinazoline | 0.08 g | ClC1=C(NC2=NC=NC3=CC(=CC(=C23)OC2CCOCC2)OC[C@@H](CN2CCOCC2)O)C=C(C=C1)OC | C27H33ClN4O6
